US05463005
Next, 4,4-bis[(trifluoromethyl)sulfonyl]-1-butene was prepared by adding 3 ml of allyl bromide to 31.3 millimoles of the bis[(trifluoromethyl)sulfonyl] methane potassium magnesium chloride in 35 ml of THF. The mixture was stirred at 70° C. under reflux for 8 hours. After removal of solvent by distillation under reduced pressure, 50 ml of 3N hydrochloric acid was added to the residue and the aqueous solution was extracted with ethyl ether. The ethyl ether solution was dried with anhydrous MgSO4. The ethyl ether was removed from the solution and the product was distilled at 0.02 torr.

reactant | allyl bromide | 3 ml | C(C=C)Br | C3H5Br
reactant | bis[(trifluoromethyl)sulfonyl] methane potassium magnesium chloride | 31.3 millimoles | [Cl-].[Mg+2].[K+].FC(S(=O)(=O)CS(=O)(=O)C(F)(F)F)(F)F.[Cl-].[Cl-]
solvent | THF | 35 ml | C1CCOC1 | C4H8O
product | 4,4-bis[(trifluoromethyl)sulfonyl]-1-butene | FC(S(=O)(=O)C(CC=C)S(=O)(=O)C(F)(F)F)(F)F | C6H6F6O4S2
